US06800654B2
2-(6-Hydroxy-2-naphthyl)-3-pentyl-1H-indole
To a stirred solution of 2-(6-methoxy-2-naphthyl)-3-pentyl-1H-indole (0.915 g, 2.66 mmol) in CH2Cl2 (30 mL) cooled to −78° C. was added BBr3 (9.86 mL, 1.0 M in CH2Cl2, 9.86 mmol) dropwise. The reaction was stirred at this temperature for 0.5 h and then warmed to rt for 2 h. The reaction mixture was quenched with MeOH (˜5 mL) followed by dilution with H2O (20 mL) and EtOAc (200 mL). The organic layer was washed with brine (20 mL) and then dried (Na2SO4). After concentration, the residue was purified by the Biotage Flash 40 apparatus (10 to 20% EtOAc:petroleum ether gradient) to afford the product (0.677 g, 77%) as a foamy solid; 1H NMR (DMSO-d6) δ 0.83 (t, J=7.3 Hz, 3H), 1.23-1.42 (m, 4H), 1.58-1.76 (m, 2H), 2.89 (t, J=8.2 Hz, 2H), 7.00 (t, J=8.2 Hz, 1H), 7.06-7.19 (m, 3H), 7.35 (d, J=8.2 Hz, 1H), 7.53 (d, J=8.2, 1H), 7.67 (d, J=9.1 Hz, 1H), 7.74-7.88 (m, 2H), 7.98 (s, 1H), 9.83 (s, 1H), 11.14 (s, 1H); mass spectrum [(+) ESI], m/z 330 (M+H)+ and [(−) ESI], m/z 328 (M−H)−.

reactant | 2-(6-methoxy-2-naphthyl)-3-pentyl-1H-indole | 2.66 mmol, 0.915 g | COC=1C=C2C=CC(=CC2=CC1)C=1NC2=CC=CC=C2C1CCCCC | C24H25NO
reactant | BBr3 | 9.86 mmol, 1.0 M, 9.86 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-Hydroxy-2-naphthyl)-3-pentyl-1H-indole | 0.677 g, 77% | OC=1C=C2C=CC(=CC2=CC1)C=1NC2=CC=CC=C2C1CCCCC | C23H23NO
